US05461076
(a) 4-Cyano-3-methyl-1-indanone
A mixture of 2.6 g (11.5 mmol) of 4-bromo-3-methyl-1-indanone [J. Org. Chem. 22, 1019 (1957)] and 1.14 g (12.7 mmol) of copper(I) cyanide in 2.5 ml of DMF is stirred for 6 hours at 170°. The reaction mixture is then cooled to 100°, and 50 ml of toluene and a solution of 4.5 g (16.5 mmol) of iron(III) chloride hexahydrate in 7 ml of water and 1.7 ml of concentrated hydrochloric acid are added in succession thereto. The reaction mixture is stirred for 20 minutes at 70°, cooled and diluted with toluene and water. The organic phase is separated off, washed with water, a semi-saturated sodium hydrogen carbonate solution and again with water, dried and concentrated by evaporation. The residue is distilled at 100°-120°/0.05 mbar in a bulb tube still and corresponds to starting compound (a), m.p. 109°-111°; IR (CH2Cl2): 2220, 1710 cm-1 ; 1H-NMR (CDCl3): δ=7.92 (m,2H); 7.52 (t,1H); 3.73 (m,1H); 3.03 (q,1H); 2.40 (q,1H); 1.55 (d,3H).

reactant | 4-bromo-3-methyl-1-indanone | 11.5 mmol, 2.6 g | BrC1=C2C(CC(C2=CC=C1)=O)C | C10H9BrO
reactant | copper(I) cyanide | 12.7 mmol, 1.14 g | [Cu]C#N
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
solvent | water | 7 ml | O | H2O
solvent | hydrochloric acid | 1.7 ml | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | iron(III) chloride hexahydrate | 16.5 mmol, 4.5 g | O.O.O.O.O.O.[Fe](Cl)(Cl)Cl
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Cyano-3-methyl-1-indanone | C(#N)C1=C2C(CC(C2=CC=C1)=O)C | C11H9NO
